Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of htn, HLD, chronic low back pain presents to the
emergency department for evaluation of dilated CBD incidentally
identified on lumbar spine MRI. 

History is obtained from review of records, and from patient's
daughter at bedside, who is in MD ___ at ___).  Patient is ___ only speaking, but confirms
history via her daughter in detail.

Pt was seen at ___ on ___ for ongoing constant R sided low
back and buttock pain with radiation to RLE, ___, exacerbated 
by
heavy lifting, walking, prolonged standing, worse when getting
out of bed in the morning, relieved with rest. She describes
occasional "tingling" in RLE, denies RLE weakness, bowel or
bladder incontinence or retention. She had prior episode of low
back pain ___ years ago, which resolved, but then recurred 7
months prior to this presentation. PCP ordered spine xray, and 
pt
was referred to ___ for further care. ___ produced significant
improvement in symptoms, particularly with stretching and 
massage
of right piriformis muscle. Pt reported consistently doing ___,
including home ___ as advised. She takes no medications for her
symptoms. At baseline, she is able to walk 1 mile, can stand for
30 minutes. Based on her ___ evaluation, MRI lumbar spine was
recommended. 
 
Lumbar spine MRI revealed a dilated common bile duct measuring
1.1 cm. In hindsight, pt describes ___ month history of
intermittent abdominal discomfort with early satiety. No
associated fevers or chills. No associated chest pain or
shortness of breath. No vomiting or diarrhea. There are no LFTs
in Atrius records for the past ___ years. Pt has NOT had CCY;
gallbladder is in place.

In the ED: 
Initial vital signs were notable for: T 98.9, HR 82, BP 151/74,
RR 18, 98% RA 

Labs were notable for:
- CBC: WBC 6.4, hgb 12.4, plt 226

- Lytes:
142 / 104 / 11     AGap=13 
-------------- 107 
4.9 \ 25 \ 0.6  

- LFTs: AST: 32 ALT: 14 AP: 45 Tbili: 0.4 Alb: 4.5 

- coags: ___: 10.9  PTT: 30.2  INR: 1.0 

- u/a with trace ketones

Studies performed include: RUQUS showing: Dilated extrahepatic
common bile duct at 15 mm, without intrahepatic biliary
dilatation. No stones are seen within the gall bladder or
partially visualized bile ducts.

Consults: the ERCP team recommended admission to ___ for
MRCP

Vitals on transfer: T 98.4, HR 75, BP 129/72, RR 16, 99% RA 

Upon arrival to the floor, pt is pain free, resting comfortably.
She denies chest pain, SOB, abdominal pain.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
- osteoporosis
- history of colonic polyps
- hypertension
- hyperlipidemia
- borderline DM2 - HbA1c 6.1% ___
- erosive esophagitis - attributed to bisphosphonate, which has
been d/ced
- s/p appendectomy - in ___, ___
 
Social History:
___
Family History:
Sister with ? heart problem, brother with diabetes and CVA, 
nephew died from stomach cancer at age ___
 
Physical Exam:
ADMISSION EXAM
--------------
VITALS: 98.1 PO 134 / 72 78 20 95 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Ears
without lesions or apparently trauma.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, spinal TTP. 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, strength is ___ in ___, with negative
straight leg raise. Sensation to light touch is intact and
symmetric over bilateral ___.
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
--------------
VS: ___ 0757 Temp: 98.3 PO BP: 123/72 HR: 65 RR: 18 O2 sat:
96% O2 delivery: RA 
___ ___ Dyspnea: 0 RASS: 0 Pain Score: ___  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Ears
without lesions or apparently trauma.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, spinal TTP. 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, strength is ___ in ___, with negative
straight leg raise. Sensation to light touch is intact and
symmetric over bilateral ___.
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS
--------------
___ 12:00PM BLOOD WBC-6.4 RBC-4.16 Hgb-12.4 Hct-37.7 MCV-91 
MCH-29.8 MCHC-32.9 RDW-13.2 RDWSD-43.4 Plt ___
___ 12:00PM BLOOD Neuts-64.8 ___ Monos-7.6 Eos-0.6* 
Baso-0.3 Im ___ AbsNeut-4.16 AbsLymp-1.68 AbsMono-0.49 
AbsEos-0.04 AbsBaso-0.02
___ 12:28PM BLOOD ___ PTT-30.2 ___
___ 12:00PM BLOOD Glucose-107* UreaN-11 Creat-0.6 Na-142 
K-4.9 Cl-104 HCO3-25 AnGap-13
___ 12:00PM BLOOD ALT-14 AST-32 AlkPhos-45 TotBili-0.4
___ 07:03AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.0
___ 12:00PM BLOOD Albumin-4.5

IMAGING
-------
RUQ u/s: 
1. Dilated extrahepatic common bile duct at 15 mm, without
intrahepatic biliary dilatation. No stones are seen within the
gall bladder or partially visualized bile ducts.
2. No pancreatic mass is seen within the partially visualized
pancreas.

MRI L spine - daughter brings report and discs, which have been
uploaded into OMR:

MRI lumbar spine ___ performed at ___ MRI addendum:
Findings: Noncontrast lumbar MRI was performed including 
sagittal
T1, thin section sagittal T2 with sagittal/axial reformats,
sagittal STIR.
For purposes of labeling, L5 through S1 is at axial T2 series 5
image 5 which is last well-developed disc space there appears to
be a transitional left lateral lumbosacral articulation. 
Therefore conus tip is at approximately L1-L2.  There is mild
grade 1 anterolisthesis of L4 on L5.  There is chronic appearing
loss of height/compression fracture of the T11 superior 
endplate.
There is mild retropulsion of superior endplate fracture
fragments.  Within the T12 vertebral body there is a rounded 7-8
mm focus of T1/type T2 hypointensity, with faint T1 STIR
hyperintensity.  A similar lesion is seen in the left aspect of
sacrum measuring up to 11 mm.
At the T10-T11 disc space, retropulsion of T11 superior endplate
fracture fragments results in minimal-mild central narrowing. 
There is minimal foraminal
At T11-T12 mild disc bulge does not result in significant 
central
or foraminal narrowing.
At T12-L1 there is no significant central or foraminal 
narrowing.
At L1-L2 there is no significant central or foraminal narrowing.
At L2-L3 there is no significant central or foraminal narrowing.
At L3-L4 small paracentral disc protrusions do not result in
significant central narrowing.  There is mild foraminal 
narrowing
due to mild facet degenerative changes and disc bulge.
At L4-L5 listhesis and facet degenerative/hypertrophic changes
result in mild central narrowing.  There is foraminal narrowing
due to facet hypertrophy and disc bulge without compression seen
of exiting L4 nerve roots.
At L5-S1 there is no significant central narrowing.  There is
distal foraminal narrowing due to lateral osteophytes that may
abut the exiting L5 nerve roots.
Common bile duct appears mildly prominent, measuring 1.1 cm. 
This can be seen postcholecystectomy; please correlate with
patient history.  Dedicated abdominal imaging, ultrasound may be
considered for further evaluation if indicated.
Impression: Noncontrast lumbar MRI.
Please note lumbar vertebral numbering assumes a transitional
left lumbosacral articulation.  If surgical images considered,
please correlate with plain film and/or CT.
Degenerative listhesis at L4-L5 results in mild central
narrowing.
There is chronic appearing compression fracture of the T11
vertebral body with retropulsion of superior endplate fracture
fragments resulting in minimal to mild central narrowing.
Lumbar foraminal narrowing is most prominent at L5-S1 with
disc/osteophytes abutting exiting L5 nerve roots in the distal
foramen.
There are a couple of nonspecific T1 hypointense lesions seen in
the T12 vertebral body and sacrum.  Considering patient does not
report a history of primary carcinoma, these may represent 
benign
lesions such as atypical hemangiomas as opposed to more
aggressive lesion such as metastases.  However, a follow-up 
study
in ___ months is recommended to assure stability.  
Alternatively,
a nuclear bone scan may be considered for further evaluation.
Please see comments above regarding the common bile duct.

MRI brain ___:
Impression: Contrast enhanced brain MRI:
Scattered white matter T2/FLAIR hyperintensities are 
nonspecific,
possible sequel of small vessel ischemic disease in appropriate
clinical setting. No acute ischemia, mass effect or pathology
enhancement is seen in the brain parenchyma. No masses or
pathologic enhancement is seen in the internal auditory canals. 
L
maxillary sinus disease. Chronic appearing medial left orbital
wall fracture.

MRCP ___:
IMPRESSION:  
Mild dilatation of the common hepatic duct which may be 
secondary to ampullary stenosis.  No intra hepatic bile duct 
dilatation.  The pancreatic duct is not dilated.  No stones or 
periampullary lesions visualized.  A periampullary lesion cannot 
be excluded with certainty. 
  
Incidental finding of a 2 mm side-branch IPMN 
  
RECOMMENDATION(S):  For management of pancreatic cyst(s) up to 5 
mm in 
patients in less than ___ years of age, a non-contrast MRCP 
follow-up is 
recommended in ___ years. 
  
For cysts measuring up to 1.5 cm: 
(a) These guidelines apply only to incidental findings, and not 
to patients who are symptomatic, have abnormal blood tests, or 
have history of pancreas neoplasm resection. 
(b) Clinical decisions should be made on a case-by-case basis 
taking into 
account patient's comorbidities, family history, willingness to 
undergo 
treatment, and risk tolerance. 
  
Local ___ follow-up guidelines adopted from: 
___ 

DISCHARGE LABS
--------------
___ 07:03AM BLOOD ___ PTT-30.2 ___
___ 07:03AM BLOOD Glucose-112* UreaN-14 Creat-0.7 Na-141 
K-4.1 Cl-100 HCO3-27 AnGap-14
___ 07:03AM BLOOD ALT-14 AST-16 AlkPhos-47 TotBili-0.6
___ 07:03AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.___ year old female with history of hypertension, hyperlipidemia, 
chronic low back pain presents for evaluation of dilated CBD 
incidentally identified on lumbar spine MRI. 

ACUTE/ACTIVE PROBLEMS:
# Dilated common bile duct:
# Early satiety: Patient endorses ___ months of early satiety 
without associated weight loss, night sweats, abdominal pain, 
nausea/vomiting, or jaundice.  Degree of incidentally identified 
CBD dilation on MRI L-spine is modest.  ERCP was notified, 
recommended MRCP for further characterization of biliary tree.  
Liver function tests were within normal range.  MRCP could not 
rule out a periampullary lesion and showed a small IPMN.  ERCP 
team recommends outpatient endoscopic ultrasound, which they 
will schedule.

# Low back pain: Chronic, worse in the prior ___ months, but per 
patient's daughter has significantly improved with stretching 
and massage of the right piriformis.  Findings on MRI L-spine 
suggest L5-S1 disc/osteophyte abutting exiting L5 nerve roots.  
Patient will continue physical therapy as an outpatient.  She 
should have repeat imaging in ___ months to reassess small bony 
lesions, likely atypical hemangiomas.

CHRONIC/STABLE PROBLEMS:
# Hypertension: continued amlodipine with hold parameters.  Home 
ACE inhibitor was held.

# Hyperlipidemia: continued home atorvastatin 10 mg PO daily.

# Impaired fasting glucose: HbA1c is 6.1%.  Home metformin was 
held, and sliding scale insulin was provided

TRANSITIONS OF CARE
-------------------
# Follow-up: Patient will continue physical therapy as an 
outpatient.  She should have repeat imaging in ___ months to 
reassess small bony lesions, likely atypical hemangiomas.  ERCP 
team recommends outpatient endoscopic ultrasound, which they 
will schedule.

# Contacts/HCP/Surrogate and Communication: Daughter, ___ -___
# Code Status/Advance Care Planning: Presumed full 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 10 mg PO QPM 
2. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
3. Vitamin D 1000 UNIT PO DAILY 
4. amLODIPine 5 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain  
2.  amLODIPine 5 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Common bile duct dilation
Back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with back pain.  
Further testing showed that you had dilation of your common bile 
duct.  An MRI was performed to look further and showed that 
there was nothing urgent to be done.  However, you should have 
an endoscopic ultrasound in the near future to further look into 
some of the findings.  This will be scheduled with you by the 
ERCP team here.  You are now being discharged.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___